US08541576B2
Step b. Preparation of 2-bromo-4-(4-methylpiperazin-1-yl)phenyl acetate
A solution of 4-(4-methylpiperazin-1-yl)phenyl acetate 247 mg (1.05 mmol) and p-toluenesulfonic acid 209 mg (1.1 mmol) in acetonitrile was cooled in an ice bath and bromine 0.056 ml (1.1 mmol) was added dropwise. The reaction was stirred at room temperature until complete (3-4 hours), was diluted with ethyl acetate and extracted with water and saturated NaHCO3. The organic phase, dried over Na2SO4 and evaporated, was purified by flash chromatography (DCM/MeOH 85/15) to give the product as a dark brown oil. HPLC (254 nm) method 2 Rt 4.05 min. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.25 (s, 3H) 2.36 (s, 3H) 2.39 (m, 4H) 3.44 (m, 4H) 6.50 (dd. J=2.1, 8.3 Hz, 1H) 7.03 (d, J=8.3 Hz, 1H) 7.21 (d, J=2.1 Hz, 1H). Mass. Calc. 313.0546 Mass. Found: 313.0538

reactant | 4-(4-methylpiperazin-1-yl)phenyl acetate | 1.05 mmol, 247 mg | C(C)(=O)OC1=CC=C(C=C1)N1CCN(CC1)C | C13H18N2O2
reactant | p-toluenesulfonic acid | 1.1 mmol, 209 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | bromine | 1.1 mmol, 0.056 ml | BrBr | Br2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-4-(4-methylpiperazin-1-yl)phenyl acetate | C(C)(=O)OC1=C(C=C(C=C1)N1CCN(CC1)C)Br | C13H17BrN2O2
